US04222935
2-Bromo-4-nitro-4'-(N,N-diethylamino)azobenzene (1.9 parts), copper (I) iodide (0.95 parts), anhydrous sodium acetate (1.2 parts), formamide (1.8 parts), acetic anhydride (2.0 parts) and n-butyl acetate (44 parts) are mixed together and heated, with stirring, to 110° C. during 15 minutes. The temperatures is maintained at 110° C. for 31/2 hours when reaction is adjudged complete by thin layer chromatography. The solvent is removed at 80° C. under reduced pressure and the residue is slurried in water (250 parts), collected and dried. 2-Cyano-4-nitro-4'-(N,N-diethylamino)azobenzene is obtained in 75% yield and requires no purification.

reactant | 2-Bromo-4-nitro-4'-(N,N-diethylamino)azobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(C=C1)N(CC)CC | C16H17BrN4O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | copper (I) iodide | [Cu]I
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | 2-Cyano-4-nitro-4'-(N,N-diethylamino)azobenzene | 75% yield | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(C=C1)N(CC)CC | C17H17N5O2
